US04452851
To a suspension of benzhydryl 7-[2-(2-formamidothiazol-4-yl)-2-tert-butoxycarbonylmethoxyiminoacetamido]-3-methylthio-3-cephem-4-carboxylate (syn isomer, 2.3 g) in methanol (69 ml) was added conc. hydrochloric acid (1.44 ml) at 35° C., and the suspension was stirred for an hour at the same temperature. The reaction mixture was adjusted to pH 7.0 with an aqueous saturated solution of sodium bicarbonate. Methanol as evaporated in vacuo, and the residue was dissolved in ethyl acetate. The ethyl acetate layer was washed with an aqueous saturated solution of sodium chloride and dried over magnesium sulfate. The solvent was evaporated in vacuo to give benzhydryl 7-[2-(2-aminothiazol-4-yl)-2-tert-butoxycarbonylmethoxyiminoacetamido]-3-methylthio-3-cephem-4-carboxylate (syn isomer, 1.76 g). mp. 148°-155° C.

reactant | benzhydryl 7-[2-(2-formamidothiazol-4-yl)-2-tert-butoxycarbonylmethoxyiminoacetamido]-3-methylthio-3-cephem-4-carboxylate | 2.3 g | C(=O)NC=1SC=C(N1)C(C(=O)NC1[C@@H]2N(C(=C(CS2)C)C(=S)OC(C2=CC=CC=C2)C2=CC=CC=C2)C1=O)=NOCC(=O)OC(C)(C)C | C33H33N5O7S3
reactant | hydrochloric acid | 1.44 ml | Cl | ClH
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | methanol | 69 ml | CO | CH4O
product | benzhydryl 7-[2-(2-aminothiazol-4-yl)-2-tert-butoxycarbonylmethoxyiminoacetamido]-3-methylthio-3-cephem-4-carboxylate | 1.76 g | NC=1SC=C(N1)C(C(=O)NC1[C@@H]2N(C(=C(CS2)C)C(=S)OC(C2=CC=CC=C2)C2=CC=CC=C2)C1=O)=NOCC(=O)OC(C)(C)C | C32H33N5O6S3
